US08232390B2
Step 3: dimethyl 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-6,10-dicarboxylate
Methyl chloroacrylate (1.7 eq), triethylbutyl ammonium chloride (0.2 eq) and potassium carbonate (6 eq) were added to a solution of methyl 2-(2-aminophenyl)-3-cyclohexyl-1H-indole-6-carboxylate in dry MeCN (0.02 M). The mixture was heated at 60° C. overnight. The mixture was allowed to cool to RT, filtered and concentrated in vacuo. The residue was taken up in MeOH and 5 eq of trimethylsilyldiazomethane (2 N solution in hexanes) added dropwise. Volatiles were then removed in vacuo and the crude product was purified by flash chromatography (SiO2; 2:8 EtOAc/PE) to afford the title compound as a solid (45%). MS (ES+) m/z 433 (M+H)+.

reactant | Methyl chloroacrylate | 1.7 eq | ClC(C(=O)OC)=C | C4H5ClO2
reactant | triethylbutyl ammonium chloride | 0.2 eq | [Cl-].C(C)[N+](CCCC)(CC)CC
reactant | potassium carbonate | 6 eq | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-(2-aminophenyl)-3-cyclohexyl-1H-indole-6-carboxylate | NC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C22H24N2O2
reactant | trimethylsilyldiazomethane | 2 N, 5 eq | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeCN | 0.02 M | CC#N | C2H3N
product | dimethyl 13-cyclohexyl-6,7-dihydro-5H-indolo[1,2-d][1,4]benzodiazepine-6,10-dicarboxylate | 45% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(NC3=C(C21)C=CC=C3)C(=O)OC)C(=O)OC | C26H28N2O4
